US08048909B2
Methyl 4-propyl-1H-pyrrole-3-carboxylate
Using p-toluenesulfonylmethyl isocyanide (8.6 g), methyl (2E)-hex-2-enoate (5.67 g) and potassium tert-butoxide (5.9 g), a procedure as in Reference Example 39 was performed to give the title compound as colorless crystals (yield 2.8 g, 38%).

reactant | p-toluenesulfonylmethyl isocyanide | 8.6 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | methyl (2E)-hex-2-enoate | 5.67 g | C(\C=C\CCC)(=O)OC | C7H12O2
reactant | potassium tert-butoxide | 5.9 g | CC(C)([O-])C.[K+]
product | Methyl 4-propyl-1H-pyrrole-3-carboxylate | yield 2.8 g, 38% | C(CC)C=1C(=CNC1)C(=O)OC | C9H13NO2
